US05508273
O,O-Diethyl 3-Trifluoromethylphenyl(3-trifluoromethylbenzyl)methylphosphonate
A solution of O,O-diethyl 3-trifluoromethylbenzylphosphonate (20.0 g, 67.5 mmol) in tetrahydrofuran (90 mL) was cooled to -70° C. (dry ice bath), under N2, and a solution of butyllithium (1.6M, in hexanes, 46.4 mL, 74.3 mmol) in 90 mL of dry tetrahydrofuran cooled to -70° C. (dry ice) was added. After 15 minutes, a solution of 3-trifluoromethylbenzylbromide (10.3 mL, 67.5 mmol)in tetrahydrofuran (90 mL) was added. The green reaction mixture turned yellow and was brought to room temperature and allowed to stir for 4 hours. The mixture was then quenched with H2O (200 mL), and extracted with ether (2×200 mL). The combined ether extracts were dried (MgSO4), filtered, and concentrated to dryness to give a yellow oil, 32.3 g. The crude product was chromatographed on a silica gel column. Elution with ethyl acetate/hexane (1:1) afforded analytically pure product as a pale yellow oil, 24.1 g (78.4 %). 300 MHz 1H NMR (CDCl3): δ, 3.16-4.20 (m,7H, PCH, PhCH2, 2(OCH2). MS: 455 (M+1).

reactant | O,O-diethyl 3-trifluoromethylbenzylphosphonate | 67.5 mmol, 20.0 g | FC(C=1C=C(CP(OCC)(OCC)=O)C=CC1)(F)F | C12H16F3O3P
reactant | dry ice | C(=O)=O | CO2
reactant | butyllithium | 74.3 mmol, 1.6M, 46.4 mL | C(CCC)[Li]
reactant | 3-trifluoromethylbenzylbromide | 67.5 mmol, 10.3 mL | FC(C=1C=C(CBr)C=CC1)(F)F | C8H6BrF3
solvent | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
product | O,O-Diethyl 3-Trifluoromethylphenyl(3-trifluoromethylbenzyl)methylphosphonate | FC(C=1C=C(C=CC1)C(CC1=CC(=CC=C1)C(F)(F)F)P(OCC)(OCC)=O)(F)F | C20H21F6O3P
